US08106064B2
(3-Dimethoxymethyl-5-methyl-phenyl)-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methanone (101):
To a stirred solution of (3-dimethoxymethyl-5-methyl-phenyl)-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-acetonitrile (3.4 g, 8.8 mmol) in anhydrous DMF (36 ml) at room temperature under nitrogen atmosphere, was added 60% sodium hydride (0.423 g, 10.6 mmol). After 20 min., oxygen was bubbled into the mixture for 3 hr. The mixture was then partitioned between ether and water, The ether layer was taken, washed with water twice, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:4)) to afford 3.26 g (98%) of a pale yellow solid. m.p. 86-88° C.; 1H NMR (300 MHz, CDCl3) δ 1.22 (6H, d, J=6.3 Hz), 2.41 (3H, s), 2.81 (1H, m), 3.31 (6H, s), 3.93 (3H, s), 4.06 (3H, s), 5.36 (1H, s), 7.53 (1H, s), 7.64 (1H, s), 7.71 (1H, s).

reactant | (3-dimethoxymethyl-5-methyl-phenyl)-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-acetonitrile | 8.8 mmol, 3.4 g | COC(C=1C=C(C=C(C1)C)C(C#N)C1=NC(=NC(=C1C(C)C)OC)OC)OC | C21H27N3O4
reactant | sodium hydride | 10.6 mmol, 0.423 g | [H-].[Na+]
reactant | DMF | 36 ml | CN(C)C=O | C3H7NO
product | (3-Dimethoxymethyl-5-methyl-phenyl)-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methanone | 3.26 g, 98% | COC(C=1C=C(C=C(C1)C)C(=O)C1=NC(=NC(=C1C(C)C)OC)OC)OC | C20H26N2O5
